US05344992
6-Hydroxy-1-Phenylhexane-1,3-Dione
60.0 g of acetophenone, 47.4 g of butyrolactone and 99.0 g of sodium methylate (30% solution in methanol) are reacted in the same manner as described in Example 8. After working up as described in Example 8, the product precipitates from the mother solution after several hours. The precipitate is isolated by filtration, washed with water and dried to constant weight under vacuum at ca. 30° C.

reactant | acetophenone | 60.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | butyrolactone | 47.4 g | C1(CCCO1)=O | C4H6O2
reactant | sodium methylate | 99.0 g | C[O-].[Na+]
product | 6-Hydroxy-1-Phenylhexane-1,3-Dione | OCCCC(CC(=O)C1=CC=CC=C1)=O | C12H14O3
